US08383635B2
2-[(3-aminopropyl)amino]-4-{[3-(3-aminopropyl)phenyl]amino}pyrido[4,3-d]pyrimidin-5(6H)-one
To a premixed solution of TFA (0.5 mL, 6.49 mmol) and dichloromethane (0.5 mL) was added to 1,1-dimethylethyl(3-{3-[(2-{[3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)propyl]amino}-5-oxo-5,6-dihydropyrido[4,3-d]pyrimidin-4-yl)amino]phenyl}propyl)carbamate (39 mg, 0.069 mmol) and the mixture was stirred for 30 min. It was then concentrated and the product was lyophilized (30 mg, white solid).

reactant | TFA | 6.49 mmol, 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 1,1-dimethylethyl(3-{3-[(2-{[3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)propyl]amino}-5-oxo-5,6-dihydropyrido[4,3-d]pyrimidin-4-yl)amino]phenyl}propyl)carbamate | 0.069 mmol, 39 mg | CC(C)(C)N(C([O-])=O)CCCC1=CC(=CC=C1)NC=1C2=C(N=C(N1)NCCCNC(=O)OC(C)(C)C)C=CNC2=O
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 2-[(3-aminopropyl)amino]-4-{[3-(3-aminopropyl)phenyl]amino}pyrido[4,3-d]pyrimidin-5(6H)-one | NCCCNC=1N=C(C2=C(N1)C=CNC2=O)NC2=CC(=CC=C2)CCCN | C19H25N7O
